* C:\Users\herra\Desktop\ASSD\TP1\TP1-ASSD\Simulaciones\Draft2.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 N003 N001 MP_01 MP_02 Vo OA_Ideal Avol=1Meg GBWP=10Meg
R1 N001 0 1k
R2 N002 N001 1k
R3 Vo N002 2k
R4 0 N002 1k
V2 N003 0 1
.op
.lib TCLib/OA_Ideal.lib
.backanno
.end
