* C:\Users\herra\Desktop\ASSD\TP1\TP1-ASSD\Simulaciones\Draft4.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 N003 N001 MP_01 MP_02 Vo OA_Ideal Avol=1Meg GBWP=10Meg
V1 N003 0 7.5
V2 N002 0 3
R1 N001 N002 {1k *(1-k)}
R2 Vo N001 {1k * k}
.step param k 10m 1 10m
.op
.lib TCLib/OA_Ideal.lib
.backanno
.end
