* C:\Users\herra\Desktop\ASSD\TP1\TP1-ASSD\Simulaciones\Draft6.asc
* Generated by LTspice 24.1.9 for Windows.
C1 N003 0 10n
C2 N004 0 4.7n
R1 N006 0 1k
Q1 N002 N005 N006 0 BC547C
X§U1 N003 N004 Xtal Cm=0.1p Lm=1m Rs=10k Cp=4p
R3 N001 N002 1k
X§U2 N001 vcc V=15
R4 N003 N002 390
R5 N005 0 2k
R6 N001 N005 2k
R2 N005 N004 100
.model NPN NPN
.model PNP PNP
.lib C:\Users\herra\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 200m
.lib TCLib/vcc.lib
.lib TCLib/xtal.lib
.backanno
.end
