* C:\Users\herra\Desktop\ASSD\TP1\TP1-ASSD\Simulaciones\Draft7.asc
* Generated by LTspice 24.1.9 for Windows.
R1 Vo 0 10
R2 Vo N010 {20k *k}
R3 N012 N010 1.8k
Q1 N008 N010 N011 0 BC547C
Q2 N006 N009 N011 0 BC547C
X§U1 N008 vcc V=15
Q3 Vo N006 N005 0 BD138
Q4 Vo N005 N004 0 TIP32C
R4 N001 N004 0.47
Q5 N003 N002 N001 0 BC557C
X§U2 N001 vcc V=15
R5 N011 0 1.2k
D1 0 N009 PDZV11B
R6 N007 N009 390
X§U3 N007 vcc V=15
D2 0 N012 TDZV13
X§U5 N013 vcc V=15
R7 N012 N013 390
.model D D
.lib C:\Users\herra\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\herra\AppData\Local\LTspice\lib\cmp\standard.bjt
.step param k 10m 1 10m
.op
* .param k=0.1
.lib TCLib/vcc.lib
.backanno
.end
